US04317823
2.0 g of 4-chloroacetyl-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one, 0.55 g of pyrrolidine, 0.85 g of ground sodium carbonate and 15 ml of absolute ethanol are heated at the boil for 2 hours; the hot solution is then filtered and concentrated in vacuo. The thus-obtained residue is dissolved in ethylene chloride, and the resulting organic solution is washed at pH 7 with water and concentrated to yield 2.05 g of 1,3-dimethyl-4-(pyrrolidinoacetyl)-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one, mp 114° to 116° C. (from toluene).

reactant | 4-chloroacetyl-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one | 2.0 g | ClCC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)N(N=C2C)C | C14H13ClN4O2
reactant | pyrrolidine | 0.55 g | N1CCCC1 | C4H9N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,3-dimethyl-4-(pyrrolidinoacetyl)-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one | 2.05 g | CN1N=C(C=2N(C3=C(NC(C21)=O)C=CC=C3)C(CN3CCCC3)=O)C | C18H21N5O2
